US04272437
6-Azidohexanoyl chloride
The above compound was prepared by a literature procedure [V. M. Rothe and K. Gehrke, Makromol Chem. 83, 1 (1965)] as follows: To 6-azidohexanoic acid (7.5 g, 47.7 mmol) previously cooled to 0° C. was added 10 ml (16.3 g, 137 mmol) of thionyl chloride and the solution was stirred in cold until the evolution of gas had subsided (5-10 min) and then refluxed for 1 h. The reaction mixture was evaporated and the residue distilled to give 5.5 g (65.6%) of title compound bp 110°-111° C./12 Tor (lit. bp 73°-75° C./0.1 tor); ir (neat) νmax : 2097 (N3), 1795 cm-1 (C=O); 1Hmr (CDCl3) δ: 1.1-2.0 (m, 6H, 3CH2), 2.9 (m, 2H, CH2CO), 3.27 (m, 2H, CH2N3).

reactant | 6-azidohexanoic acid | 47.7 mmol, 7.5 g | N(=[N+]=[N-])CCCCCC(=O)O | C6H11N3O2
reactant | thionyl chloride | 137 mmol, 10 ml, 16.3 g | S(=O)(Cl)Cl | Cl2OS
product | 6-Azidohexanoyl chloride | 5.5 g, 65.6% | N(=[N+]=[N-])CCCCCC(=O)Cl | C6H10ClN3O
